US07923450B2
a) 5-(2-methoxy-4-nitro-phenyl)-2-methyl-thiazole
In a microwave vial a mixture of 2-bromo-5-nitroanisole (800 mg, 3.38 mmol), potassium acetate (503 mg, 5.07 mmol) and tetrakis(triphenylphosphine)-palladium(0) (197 mg, 0.17 mmol) in N,N-dimethylacetamide (12 mL) was flushed with argon while 2-methylthiazole (1.71 g, 16.9 mmol) was added. The tube was sealed and the mixture was irradiated 2 times for 30 minutes in a microwave oven at 160° C. The red-brown mixture was partitioned between ethyl acetate and water. The water layer was re-extracted with ethyl acetate. The combined organic phases were washed three times with water, once with brine, dried with magnesium sulfate and evaporated to dryness. Column chromatography (70 g silica, heptane/ethyl acetate 7:3 v/v) afforded the title compound (360 mg, 42%) as a yellow solid. MS ISP (m/e): 251.1 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=8.15 (s, 1H), 7.90 (dd, 1H), 7.84 (s, 1H), 7.72 (d, 1H), 4.05 (s, 3H), 2.76 (s, 3H). mp 114-117° C.

reactant | 2-bromo-5-nitroanisole | 3.38 mmol, 800 mg | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | potassium acetate | 5.07 mmol, 503 mg | C(C)(=O)[O-].[K+]
reactant | 2-methylthiazole | 16.9 mmol, 1.71 g | CC=1SC=CN1 | C4H5NS
solvent | N,N-dimethylacetamide | 12 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.17 mmol, 197 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(2-methoxy-4-nitro-phenyl)-2-methyl-thiazole | 360 mg, 42% | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=CN=C(S1)C | C11H10N2O3S
